US06362335B1
9. Preparation of 2-Amino-5,8-dimethoxy[1,2,4]-triazolo[1,5-c]pyrimidine
2-Chloro-4-hydrazino-5-methoxypyrimidine water wet cake (83.2 g of 84.0% chlorohydrazinomethoxy-pyrimidine=69.84 g actual chlorohydrazinomethoxy-pyrimidine, 0.4 mole) was loaded into a 1 L jacketed reactor equipped with a thermocouple temperature probe, overhead stirrer with glass agitator, condenser, addition funnel, and a programmable circulating bath. tert-Butyl alcohol (700 mL) and methanol (100 mL) were added and the mixture was stirred to give a white slurry. A solution of cyanogen bromide (47.19 g, 0.445 mole) in acetonitrile (105 mL) was added dropwise over 20 min. The reaction mixture slurry got thicker and the temperature of the mixture rose from 23° C. to 29° C. The reactor jacket was then heated from 22° C. to 41° C. over 50 min, then held at 41° C. for 6.2 h. During this time the reaction was monitored and the slurry thinned as the reaction proceeded. Once formation of the intermediate triazolo[4,3-c]pyrimidine was complete, the reaction mixture (a light yellow slurry) was transferred using a peristaltic pump via a PTFE dip tube into a 2 L three necked flask containing 30% sodium methoxide in methanol (181.0 g, 1.00 mole). The 2 L flask was cooled in an ice bath. Transfer took place over 52 min, and resulted in the reaction temperature increasing from 21° C. to a maximum of 28° C. The transfer was completed with additional methanol (120 mL) to rinse the transfer tubing into the reactor. The resulting reaction mixture was a dark olive green slurry. After stirring for 1 hour at ambient temperature, the reaction mixture was quenched by dropwise addition of a dilute hydrochloric acid solution (15.1 g of concentrated hydrochloric acid diluted with 300 mL of water). The pH of the resulting slurry was adjusted to 8.50 using 6 N hydrochloric acid (6.3 g). A distillation head was attached, and the volatiles were distilled out of the reaction mixture under reduced pressure (110 mmHg). As distillate was removed, additional water was added to effect a solvent exchange from alcohol to water. A total of 1029 g of distillate was removed, and an additional 500 mL of water was added during the course of the distillation. The mixture was allowed to cool slowly with stirring overnight. The solids were recovered by filtration through Whatman #52 paper using a Buchner funnel and aspirator vacuum. The solids were washed with water (211 g), then dried overnight in vacuo at 83° C. to give the product as a medium brown powdery solid (66.3 g of 95.7% pure 2-amino-5,8-dimethoxy[1,2,4]triazolo[1,5-c]pyrimidine, 82.4% yield).

reactant | 2-Chloro-4-hydrazino-5-methoxypyrimidine water | O.ClC1=NC=C(C(=N1)NN)OC
reactant | chlorohydrazinomethoxy-pyrimidine | 83.2 g | ClNNCOC1=NC=CC=N1 | C5H7ClN4O
reactant | chlorohydrazinomethoxy-pyrimidine | 69.84 g | ClNNCOC1=NC=CC=N1 | C5H7ClN4O
reactant | cyanogen bromide | 0.445 mole, 47.19 g | N#CBr | CBrN
reactant | sodium methoxide | C[O-].[Na+]
solvent | acetonitrile | 105 mL | C(C)#N | C2H3N
solvent | methanol | 120 mL | CO | CH4O
solvent | methanol | 100 mL | CO | CH4O
solvent | tert-Butyl alcohol | 700 mL | C(C)(C)(C)O | C4H10O
solvent | methanol | 1.00 mole, 181.0 g | CO | CH4O
product | 2-Amino-5,8-dimethoxy[1,2,4]-triazolo[1,5-c]pyrimidine | 66.3 g, 82.4% yield | NC1=NN2C(=NC=C(C2=N1)OC)OC | C7H9N5O2
